US05770594
2'-[α-Hydroxy-(1-naphthyl)methyl]-4'-trifluoromethyl-2,2-dimethylpropionanilide
To a stirred solution of 4'-trifluoromethyl-2,2-dimethylpropionanilide (37 g, 0.15 mol) in anhydrous tetrahydrofuran (400 ml) cooled to 0° C. under nitrogen was added slowly a solution of n-butyllithium (160 mL of 2.5M solution in hexane, 0.4 mol). The reaction mixture was stirred at 0° C. for 2 hr, then a solution of 1-naphthaldehyde (40.7 ml, 0.3 mol) in tetrahydrofuran (50 ml) was slowly added. The resulting solution was stirred at room temperature overnight, quenched with water, diluted with ethyl acetate and separated. The aqueous phase was extracted with ethyl acetate (2×) and the combined ethyl acetate extracts were washed with water and brine, dried (anhydrous sodium sulfate) and concentrated. in vacuo to an oil (74 g). The crude product was chromatographed on 2 kg silica gel, eluting with 8:2 hexane/ethyl acetate to yield the title compound as a tan solid (31 g, 52% yield).

reactant | 4'-trifluoromethyl-2,2-dimethylpropionanilide | 0.15 mol, 37 g | FC(C1=CC=C(NC(C(C)(C)C)=O)C=C1)(F)F | C12H14F3NO
reactant | n-butyllithium | 0.4 mol, 2.5M, 160 mL | C(CCC)[Li]
reactant | 1-naphthaldehyde | 0.3 mol, 40.7 ml | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2'-[α-Hydroxy-(1-naphthyl)methyl]-4'-trifluoromethyl-2,2-dimethylpropionanilide | 31 g, 52% yield | OC1(CC=CC2=CC=CC=C12)CC1=C(NC(C(C)(C)C)=O)C=CC(=C1)C(F)(F)F | C23H24F3NO2
